US04707483
The sulfamoyl compound (3.7 g, 0.01 m) is suspended in 3N hydrochloric acid, heated to reflux for 16 hours and concentrated in vacuo to give 8-methoxy-1-phenyl-7-sulfamoyl-2,3,4,5-tetrahydro-1H-3-benzazepine hydrochloride. 8-Methoxy-1-phenyl-7-sulfamoyl-2,3,4,5-tetrahydro-1H-3-benzazepine hydrochloride (3.7 g, 0.01 m) is dissolved in 48% hydrobromic acid (20 ml), refluxed for 2 hours and concentrated in vacuo to afford 8-hydroxy-1-phenyl-7-sulfamoyl-2,3,4,5-tetrahydro-1H-3-benzazepine hydrobromide.

reactant | 8-Methoxy-1-phenyl-7-sulfamoyl-2,3,4,5-tetrahydro-1H-3-benzazepine hydrochloride | 3.7 g | Cl.COC=1C(=CC2=C(C(CNCC2)C2=CC=CC=C2)C1)S(N)(=O)=O
reactant | hydrobromic acid | 20 ml | Br | BrH
product | 8-hydroxy-1-phenyl-7-sulfamoyl-2,3,4,5-tetrahydro-1H-3-benzazepine hydrobromide | Br.OC=1C(=CC2=C(C(CNCC2)C2=CC=CC=C2)C1)S(N)(=O)=O | InChI=1S/C16H18N2O3S.BrH/c17-22(20,21)16-8-12-6-7-18-10-14(13(12)9-15(16)19)11-4-2-1-3-5-11;/h1-5,8-9,14,18-19H,6-7,10H2,(H2,17,20,21);1H
